US08710242B2
(2E)-3-(4-Cyanophenyl)-N-methyl-N-{2,2,2-trifluoro-[3-(trifluoromethyl)phenyl]-ethyl}acrylamide (compound No. Ia-25 in Table 1)
120.0 mg (0.30 mmol) of (2E)-3-(4-cyanophenyl)-N-{2,2,2-trifluoro-1-[3-(trifluoromethyl)-phenyl]ethyl}acrylamide from Synthesis Example 1, Stage 1 were initially charged in 2 ml of N,N-dimethylformamide and admixed at 0° C. with 19.7 mg (0.45 mmol) of sodium hydride (55% oil dispersion). After addition of 64.1 mg (0.45 mmol) of methyl iodide, the mixture was stirred at room temperature for 18 hours. The reaction mixture was diluted with ethyl acetate, washed three times with water and dried over sodium sulphate. The solvent was distilled off under reduced pressure and the residue purified by preparative HPLC (solvent=water (A)+acetonitrile (B), gradient=40 min, from 10% B to 100% B, flow=18 nm/min).

reactant | (2E)-3-(4-cyanophenyl)-N-{2,2,2-trifluoro-1-[3-(trifluoromethyl)-phenyl]ethyl}acrylamide | 0.30 mmol, 120.0 mg | C(#N)C1=CC=C(C=C1)/C=C/C(=O)NC(C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F | C19H12F6N2O
reactant | sodium hydride | 0.45 mmol, 19.7 mg | [H-].[Na+]
reactant | methyl iodide | 0.45 mmol, 64.1 mg | CI | CH3I
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2E)-3-(4-Cyanophenyl)-N-methyl-N-{2,2,2-trifluoro-[3-(trifluoromethyl)phenyl]-ethyl}acrylamide | C(#N)C1=CC=C(C=C1)/C=C/C(=O)N(C(C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F)C | C20H14F6N2O
